US07378409B2
To a solution of tert-butyl 2-(4-(benzyloxy)-3-tert-butylbenzamido)acetate (3.37 g, 8.48 mmol) in CH2Cl2 (100 mL) at 0° C. was added TFA (10 mL) and the mixture was stirred at room temperature under nitrogen atmosphere for 10 h. The reaction mixture was concentrated in vacuo to dryness to give 2-(4-(benzyloxy)-3-tert-butylbenzamido)acetic acid (2.50 g, 86%) as a white powder: mp 172-174° C.; 1H NMR (300 MHz, CD3OD) δ 7.86 (s, 1H), 7.74-7.70 (m, 1H), 7.50-7.30 (m, 5H), 7.10-7.05 (m, 1H), 5.18 (s, 2H), 4.07 (s, 2H), 1.41 (s, 9H); IR (film) 3497, 3062, 3031, 2931, 2865, 1447, 1289, 1139, 1085, 1062 cm−1; MS found: (M+H)+=342.

reactant | tert-butyl 2-(4-(benzyloxy)-3-tert-butylbenzamido)acetate | 8.48 mmol, 3.37 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NCC(=O)OC(C)(C)C)C=C1)C(C)(C)C | C24H31NO4
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(benzyloxy)-3-tert-butylbenzamido)acetic acid | 2.50 g, 86% | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NCC(=O)O)C=C1)C(C)(C)C | C20H23NO4
